US04988695
(d) 1-(2-Methylphenyl)-6-methyl-2,3-dihydropyrrolo[3,2-c]-cinnoline.
3-(2-Chloroethyl)-4-chloro-8-methylcinnoline (2.5 g, 0.01mol) and o-toluidine hydrochloride (1.4 g, 0.01 mol) in 1,4 dioxan (20 ml) were heated under reflux for 20 hours. The solvent was evaporated under reduced pressure to give an oil. The oil was partitioned between chloroform and dilute sodium carbonate solution and extracted further with chloroform (4×100 ml). The chloroform extracts were combined, dried over magnesium sulphate, filtered and evaporated to give an oil. The oil was purified by column chromatography using dichloromethane then chloroform as eluant. The solid obtained was recrystallized from diethyl ether/ dichloromethane to give the title compound, 0.6 g, m.p. 135-137°.

reactant | 3-(2-Chloroethyl)-4-chloro-8-methylcinnoline | 0.01mol, 2.5 g | ClCCC=1N=NC2=C(C=CC=C2C1Cl)C | C11H10Cl2N2
reactant | o-toluidine hydrochloride | 0.01 mol, 1.4 g | Cl.NC=1C(=CC=CC1)C
solvent | 1,4 dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 1-(2-Methylphenyl)-6-methyl-2,3-dihydropyrrolo[3,2-c]-cinnoline | CC1=C(C=CC=C1)N1CCC=2N=NC=3C(=CC=CC3C21)C | C18H17N3
